US07732477B2
N-[(3S)-1-Azabicyclo[2.2.2]oct-3-yl]-5-nitro-1-benzofuran-2-carboxamide
187 mg (0.90 mmol) of 5-nitrobenzofuran-2-carboxylic acid, 150 mg (0.75 mmol) of (S)-3-aminoquinuclidine dihydrochloride, 343.7 mg (0.90 mmol) of HATU, 350.5 mg (3.71 mmol) of N,N-diisopropylethylamine and 5 ml of DMF are reacted according to the general procedure (variant B). 169.1 mg (70% of theory) of the title compound are obtained. The analytical data correspond to those of the enantiomeric compound from example 30.

reactant | 5-nitrobenzofuran-2-carboxylic acid | 0.90 mmol, 187 mg | [N+](=O)([O-])C=1C=CC2=C(C=C(O2)C(=O)O)C1 | C9H5NO5
reactant | (S)-3-aminoquinuclidine dihydrochloride | 0.75 mmol, 150 mg | Cl.Cl.N[C@@H]1CN2CCC1CC2
reactant | HATU | 0.90 mmol, 343.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 3.71 mmol, 350.5 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-[(3S)-1-Azabicyclo[2.2.2]oct-3-yl]-5-nitro-1-benzofuran-2-carboxamide | N12C[C@H](C(CC1)CC2)NC(=O)C=2OC1=C(C2)C=C(C=C1)[N+](=O)[O-] | C16H17N3O4
